### PR TITLE
Add Erdős Problem 309 (integers as sums of distinct unit fractions), link the formal disproof

### LINKED ISSUE #6195: Erdős Problem 309
### What is the Erdős problem?

https://www.erdosproblems.com/309

Let $N\geq 1$. How many integers can be written as the sum of distinct unit fractions with denominators from $\{1,\ldots,N\}$? Are there $o(\log N)$ such integers?

Status: disproved (Lean). The number is $\sim \log N$ (Yokota, Croot); a formal proof exists in plby/lean-proofs (`Erdos309.not_erdos_309`, Codex, on top of Bloom–Mehta's unit fractions development).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6195.

### What changed
Adds `FormalConjectures/ErdosProblems/309.lean` with `F N` (number of integers that are sums of distinct unit fractions with denominators in `{1, …, N}`) and:
- `erdos_309` (`research solved`, `answer(False)`): whether `F(N) = o(log N)`.
- `erdos_309.variants.asymptotic`: `F(N) / log N → 1`.

Both linked to plby/lean-proofs `Erdos309.not_erdos_309` (Codex, on top of the Bloom–Mehta unit fractions formalization; 10 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos309.not_erdos_309` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (plby counts representable integers in `range (N+1)`; every representable integer is `≤ N`):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics Topology

namespace Bridge309

lemma F_eq (N : ℕ) : Erdos309.F N = Erdos309Plby.F N := by
  unfold Erdos309.F Erdos309Plby.F
  rw [← Set.ncard_coe_finset]
  congr 1
  ext m
  simp only [Set.mem_ofPred_eq, Finset.mem_coe, Erdos309Plby.mem_representableIntegers,
    Erdos309Plby.IsRepresentable, UnitFractions.rec_sum]
  constructor
  · rintro ⟨A, hA, hsum⟩
    exact ⟨Erdos309Plby.isRepresentable_le ⟨A, hA, hsum⟩, A, hA, hsum⟩
  · rintro ⟨-, A, hA, hsum⟩
    exact ⟨A, hA, hsum⟩

theorem asymptotic_bridge : type_of% Erdos309.erdos_309.variants.asymptotic := by
  simpa only [F_eq] using Erdos309Plby.not_erdos_309.1

theorem erdos_309_bridge : type_of% Erdos309.erdos_309 := by
  show False ↔ _
  simp only [false_iff, F_eq]
  exact Erdos309Plby.not_erdos_309.2

end Bridge309
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«309»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/309.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/309.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
